* FILE: MMI_FFNCB.sp


* SPICE netlist for "MMI_FFNCB" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_FFNCB clk clrb d q 
Minverter._0 q N5 gnd gnd n W='0.77*1u' L=ln_min ad='arean(0.77,sdd)' 
+ as='arean(0.77,sdd)' pd='perin(0.77,sdd)' ps='perin(0.77,sdd)'
Minverter._1 q N5 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
Minverter_1._2 clk_L clk gnd gnd n W='0.385*1u' L=ln_min 
+ ad='arean(0.385,sdd)' as='arean(0.385,sdd)' pd='perin(0.385,sdd)' 
+ ps='perin(0.385,sdd)'
Minverter_1._3 clk_L clk vdd vdd p W='0.77*1u' L=lp_min 
+ ad='areap(0.77,sdd)' as='areap(0.77,sdd)' pd='perip(0.77,sdd)' 
+ ps='perip(0.77,sdd)'
M_4_1 net_1 N5 gnd gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
M_5_1 N4 clk_L net_2 vdd p W='0.35*1u' L=lp_min ad='areap(0.35,sdd)' 
+ as='areap(0.35,sdd)' pd='perip(0.35,sdd)' ps='perip(0.35,sdd)'
M_6_1 N4 clk net_1 gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
M_7_1 net_2 N5 vdd vdd p W='0.35*1u' L=lp_min ad='areap(0.35,sdd)' 
+ as='areap(0.35,sdd)' pd='perip(0.35,sdd)' ps='perip(0.35,sdd)'
M_8_1 net_4 N3 vdd vdd p W='0.35*1u' L=lp_min ad='areap(0.35,sdd)' 
+ as='areap(0.35,sdd)' pd='perip(0.35,sdd)' ps='perip(0.35,sdd)'
M_9_1 N2 clk net_4 vdd p W='0.35*1u' L=lp_min ad='areap(0.35,sdd)' 
+ as='areap(0.35,sdd)' pd='perip(0.35,sdd)' ps='perip(0.35,sdd)'
M_10_1 N2 clk_L net_3 gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
M_11_1 net_3 N3 gnd gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
Mxgate._12 N4 clk N3 vdd p W='0.77*1u' L=lp_min ad='areap(0.77,sdd)' 
+ as='areap(0.77,sdd)' pd='perip(0.77,sdd)' ps='perip(0.77,sdd)'
Mxgate._13 N4 clk_L N3 gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
Mxgate_1._14 N1 clk_L N2 vdd p W='0.77*1u' L=lp_min ad='areap(0.77,sdd)' 
+ as='areap(0.77,sdd)' pd='perip(0.77,sdd)' ps='perip(0.77,sdd)'
Mxgate_1._15 N1 clk N2 gnd n W='0.35*1u' L=ln_min ad='arean(0.35,sdd)' 
+ as='arean(0.35,sdd)' pd='perin(0.35,sdd)' ps='perin(0.35,sdd)'
Minverter_2._16 clear clrb gnd gnd n W='0.52*1u' L=ln_min 
+ ad='arean(0.52,sdd)' as='arean(0.52,sdd)' pd='perin(0.52,sdd)' 
+ ps='perin(0.52,sdd)'
Minverter_2._17 clear clrb vdd vdd p W='1.04*1u' L=lp_min 
+ ad='areap(1.04,sdd)' as='areap(1.04,sdd)' pd='perip(1.04,sdd)' 
+ ps='perip(1.04,sdd)'
Mnand2._18 N5 N4 vdd vdd p W='0.77*1u' L=lp_min ad='areap(0.77,sdd)' 
+ as='areap(0.77,sdd)' pd='perip(0.77,sdd)' ps='perip(0.77,sdd)'
Mnand2._19 N5 N4 nand2%net_1 gnd n W='1.04*1u' L=ln_min 
+ ad='arean(1.04,sdd)' as='arean(1.04,sdd)' pd='perin(1.04,sdd)' 
+ ps='perin(1.04,sdd)'
Mnand2._20 N5 clrb vdd vdd p W='0.77*1u' L=lp_min ad='areap(0.77,sdd)' 
+ as='areap(0.77,sdd)' pd='perip(0.77,sdd)' ps='perip(0.77,sdd)'
Mnand2._21 nand2%net_1 clrb gnd gnd n W='1.04*1u' L=ln_min 
+ ad='arean(1.04,sdd)' as='arean(1.04,sdd)' pd='perin(1.04,sdd)' 
+ ps='perin(1.04,sdd)'
Mnor2._22 N3 N2 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
Mnor2._23 N3 N2 nor2%net_1 vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
Mnor2._24 N3 clear gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
Mnor2._25 nor2%net_1 clear vdd vdd p W='1.54*1u' L=lp_min 
+ ad='areap(1.54,sdd)' as='areap(1.54,sdd)' pd='perip(1.54,sdd)' 
+ ps='perip(1.54,sdd)'
Minverter_3._26 N1 d gnd gnd n W='0.77*1u' L=ln_min ad='arean(0.77,sdd)' 
+ as='arean(0.77,sdd)' pd='perin(0.77,sdd)' ps='perin(0.77,sdd)'
Minverter_3._27 N1 d vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
.ic N4=0V
*.ENDS	$ MMI_FFNCB

